US05723497
Preparation of 3-(2-hydroxyethylamino)-1-tetradecylthio-2-propanol (IIe-1):
A 300-ml flask equipped with a stirrer and dropping funnel was charged with 61.1 g (1 mol) of ethanolamine and 61 g of ethanol. While stirring the contents at 80° C., a solution of 14.3 g (50 mmol) of 1-tetradecylthio-2,3-epoxypropane in 30 g ethanol was added dropwise over 3 hours. After completion of the dropping, the resultant reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from hexane, thereby obtaining 15.8 g (yield: 91%) of the title compound (IIe-1).

reactant | ethanolamine | 1 mol, 61.1 g | C(O)CN | C2H7NO
reactant | 1-tetradecylthio-2,3-epoxypropane | 50 mmol, 14.3 g | C(CCCCCCCCCCCCC)SCC1CO1 | C17H34OS
solvent | ethanol | 30 g | C(C)O | C2H6O
solvent | ethanol | 61 g | C(C)O | C2H6O
product | 3-(2-hydroxyethylamino)-1-tetradecylthio-2-propanol | 15.8 g, yield: 91% | OCCNCC(CSCCCCCCCCCCCCCC)O | C19H41NO2S
